US04572610
(Isophorone Diisocyanate Mono Hydroxyethyl Acrylate Condensate)
Into a reaction vessel fitted with a stirrer and gas inlet tube is placed one mole (222 g) of isophorone diisocyanate. To the reaction vessel was next added 0.2% by weight of dibutyltin dilaurate catalyst and 0.05% by weight of phenothiazine based on the total weight of reactants. The mixture is then blanketed with dry nitrogen gas and one mole (116 gram) of 2-hydroxyethyl acrylate is added over a period of from 4 to 5 hours while maintaining the temperature in the range of 25°-30° C., cooling being used when needed. This temperature is maintained for one hour after acrylate addition is complete.

reactant | isophorone diisocyanate | one mole, 222 g | O=C=NC1CC(CN=C=O)(CC(C1)(C)C)C | C12H18N2O2
reactant | phenothiazine | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
reactant | 2-hydroxyethyl acrylate | one mole, 116 gram | C(C=C)(=O)OCCO | C5H8O3
reactant | acrylate | C(C=C)(=O)[O-]
catalyst | dibutyltin dilaurate | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
product | Isophorone Diisocyanate Mono Hydroxyethyl Acrylate | OCCOC(C=C)=O.O=C=NC1CC(CN=C=O)(CC(C1)(C)C)C | InChI=1S/C12H18N2O2.C5H8O3/c1-11(2)4-10(14-9-16)5-12(3,6-11)7-13-8-15;1-2-5(7)8-4-3-6/h10H,4-7H2,1-3H3;2,6H,1,3-4H2
